US07884109B2
(R)-4-(2-(2-Amino-5-fluorophenylamino)-5-nitropyrimidin-4-ylamino)-3,4-dihydronaphthalen-1(2H)-one.
A solution of 1,3-dioxolane of (R)-tert-butyl 4-fluoro-2-(5-nitro-4-(4-oxo-1,2,3,4-tetrahydronaphthalen-1-ylamino)pyrimidin-2-ylamino)phenylcarbamate (145 mg) and TFA (2.5 mL) in CH2Cl2 (5 mL) was stirred at room temperature for 1 h. Volatiles were removed in vacuo and the crude (120 mg) was subjected to the next step without further purification.

reactant | 1,3-dioxolane | O1COCC1 | C3H6O2
reactant | (R)-tert-butyl 4-fluoro-2-(5-nitro-4-(4-oxo-1,2,3,4-tetrahydronaphthalen-1-ylamino)pyrimidin-2-ylamino)phenylcarbamate | 145 mg | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC1=NC=C(C(=N1)N[C@@H]1CCC(C2=CC=CC=C12)=O)[N+](=O)[O-] | C25H25FN6O5
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-(2-(2-Amino-5-fluorophenylamino)-5-nitropyrimidin-4-ylamino)-3,4-dihydronaphthalen-1(2H)-one | NC1=C(C=C(C=C1)F)NC1=NC=C(C(=N1)N[C@@H]1CCC(C2=CC=CC=C12)=O)[N+](=O)[O-] | C20H17FN6O3
